US08466186B2
(f) 5-Chloro-2-methylamino-4-(3-(trifluoromethyl)piperidin-1-yl)aniline
A mixture of 4-chloro-N-methyl-2-nitro-5-(3-(trifluoromethyl)piperidin-1-yl)aniline (250 mg, 0.7 mmol), THF (6 mL), MeOH (6 mL) and Pt/C (50 mg) was stirred for 4 h at 35° C. under a hydrogen atmosphere (3.2 bar). The catalyst was removed by filtration and the mixture was concentrated to give the sub-title compound.

reactant | 4-chloro-N-methyl-2-nitro-5-(3-(trifluoromethyl)piperidin-1-yl)aniline | 0.7 mmol, 250 mg | ClC1=CC(=C(NC)C=C1N1CC(CCC1)C(F)(F)F)[N+](=O)[O-] | C13H15ClF3N3O2
reactant | THF | 6 mL | C1CCOC1 | C4H8O
catalyst | Pt/C | 50 mg | [Pt] | Pt
solvent | MeOH | 6 mL | CO | CH4O
product | 5-Chloro-2-methylamino-4-(3-(trifluoromethyl)piperidin-1-yl)aniline | ClC=1C(=CC(=C(N)C1)NC)N1CC(CCC1)C(F)(F)F | C13H17ClF3N3
